US07319099B2
(b) 4-(5-Trifluoromethyl-pyridazin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester
3-Chloro-5-trifluoromethyl-pyridazine (200 mg) was added to piperazine-1-carboxylic acid tert-butyl ester (231 mg) in dimethylacetamide (3 mL), and the reaction mixture was stirred at 100° C. for 3 hours. After such time, the reaction mixture was allowed to cool down to room temperature and diluted with ethyl acetate. The solid was filtered off and washed with ethyl acetate. The filtrate was then concentrated in vacuo and then purified by column chromatography (SiO2, Heptane/EtOAc) to yield the title compound as a white solid (364 mg). MS (m/e): 333.4 (M+H+, 100%)

reactant | 3-Chloro-5-trifluoromethyl-pyridazine | 200 mg | ClC=1N=NC=C(C1)C(F)(F)F | C5H2ClF3N2
reactant | piperazine-1-carboxylic acid tert-butyl ester | 231 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | dimethylacetamide | 3 mL | CC(=O)N(C)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(5-Trifluoromethyl-pyridazin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester | 364 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1N=NC=C(C1)C(F)(F)F | C14H19F3N4O2
